US09193139B2
1,1′-(octane-1,8-diyl)bis(1H-pyrrole-2,5-dione) (denoted M1)
The general procedure was carried out using maleic anhydride (14.27 g, 146 mmol), 1,8-octanediamine (10.0 g, 69.3 mmol), sodium acetate (1.14 g, 13.9 mmol) and acetic anhydride (15.57 g, 153 mmol). The resulting compound was purified by column chromatography (98:2 DCM:EtOAc), and the product obtained as a white solid (5.2 g/25%).

reactant | maleic anhydride | 146 mmol, 14.27 g | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | 1,8-octanediamine | 69.3 mmol, 10.0 g | C(CCCCCCCN)N | C8H20N2
reactant | sodium acetate | 13.9 mmol, 1.14 g | C(C)(=O)[O-].[Na+]
reactant | acetic anhydride | 153 mmol, 15.57 g | C(C)(=O)OC(C)=O | C4H6O3
product | 1,1′-(octane-1,8-diyl)bis(1H-pyrrole-2,5-dione) | C(CCCCCCCN1C(C=CC1=O)=O)N1C(C=CC1=O)=O | C16H20N2O4
